US07745642B2
Description 30: (±)-2-Chloro-N-[{1-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)(methyl)amino]cyclopentyl}(phenyl)methyl]-3-(trifluoromethyl)benzamide
The title compound (0.390 g, 99%) was prepared from (±)-2-chloro-N-[[1-(methylamino)cyclopentyl](phenyl)methyl]-3-(trifluoromethyl)benzamide (0.282 g; 0.686 mmol), (tert-butyldimethylsilyloxy acetaldehyde (90%; 0.265 g; 1.52 mmol) and sodium triacetoxyborohydride (0.290 g; 1.52 mmol) in DCM (5 ml) in a similar manner to that described in E30. Mass Spectrum (Electrospray LC/MS). Found 569 (MH+). C29H4035ClF3N2O2Si requires 568. Ret. time: 3.04 min.

reactant | (±)-2-chloro-N-[[1-(methylamino)cyclopentyl](phenyl)methyl]-3-(trifluoromethyl)benzamide | 0.686 mmol, 0.282 g | ClC1=C(C(=O)NC(C2=CC=CC=C2)C2(CCCC2)NC)C=CC=C1C(F)(F)F | C21H22ClF3N2O
reactant | tert-butyldimethylsilyloxy acetaldehyde | 1.52 mmol, 0.265 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | sodium triacetoxyborohydride | 1.52 mmol, 0.290 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (±)-2-Chloro-N-[{1-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)(methyl)amino]cyclopentyl}(phenyl)methyl]-3-(trifluoromethyl)benzamide | 0.390 g, 99% | ClC1=C(C(=O)NC(C2=CC=CC=C2)C2(CCCC2)N(C)CCO[Si](C)(C)C(C)(C)C)C=CC=C1C(F)(F)F | C29H40ClF3N2O2Si
